Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet / milk
 
Attending: ___.
 
Chief Complaint:
abdominal distention, shortness of breath and fatigue
 
Major Surgical or Invasive Procedure:
___ guided paracentesis on ___

 
History of Present Illness:
___ PMH metastatic pancreatic CA (c/b pleural effusions 
and ascites on FOLFOX s/p Cycle 2), biliary obstruction (s/p
metal stent),  DVT/PE/PVT (on rivaroxaban), who presented with
fatigue

Pt reported subacute fatigue since last admission which is
gradually worsening.  She noted that she feels it is due to her
reaccumulation of ascites.  Denied any abdominal pain,
tenderness, nausea, vomiting, diarrhea.  Denied any fever,
chills, cough, shortness of breath, dysuria, rash.  Endorsed new
bilateral leg swelling which is atypical for her.  Denied any
unilateral leg pain or tenderness.  Patient noted that she is
adhered to the antibiotic schedule and has not missed any doses.
Of note, patient had last dose of chemotherapy on ___ (C2D15
FOLFOX) and had neulasta on pro administered on ___. 

In the ED, initial vitals: 98.4 128 125/91 16 99% RA. Bedside
ultrasound with a small pericardial effusion and large pleural
effusions. INR 1.4, WBC 73.3, Hgb 10.4, plt 100, BNP 521, ALT
166, AST 269, AP 458, TBili 1.0, Lip 61, CHEM wnl, Glc 230,
Trop<0.01, Peritoneal cell count with 267 poly, protein 1.7,
glucose 238, Lactate 2.9, 2.0 on recheck
 
RUQUS:
1. Moderate to large volume ascites.
2. Main portal vein is patent with hepatopetal flow.
3. CBD stent in place without evidence of intrahepatic biliary
ductal dilation.

CXR:
Large partially layering left pleural effusion likely with
associated compressive lower lobe atelectasis, similar to
findings on recent CT of the chest. Port-A-Cath positioned
appropriately. 

Given pericardial effusion, ___ cardiology consulted who 
noted
that urgent TTE not necessary. Patient was given 500cc NS and HR
improved. Was given morphine, albumin, and cipro then admitted
for further care. 
REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative unless otherwise noted in the HPI. 
 
PAST ONCOLOGIC HISTORY:  
Per last clinic note by Dr ___:
___: Presented to ED with approximately 6 months of
worsening LLQ abdominal pain. Associated with weight loss
(~25lbs), early satiety, abdominal distension, nausea, and
constipation. Found to have large volume ascites, peritoneal
carcinomatosis, and R ovarian lesion. 
-___ Omental biopsy and therapeutic paracentesis. Biopsy
returns suggestive of pancreaticobiliary/upper GI primary. GYN
ONC surgery is canceled. 
-___: MRCP - extensive omental and peritoneal disease with
associated pancreatic tail mass,
porta hepatis soft tissue mass with biliary obstruction and left
portal vein partial thrombosis
-___: EGD/ERCP + pancreatic mass biopsy consistent with
pancreatic adenocarcinoma. Straight uncovered metal stent placed
into the right intrahepatic system
-___: C1D1 FOLFIRINOX
-___: Admission due to dehydration, diarrhea, fatigue,
and overall significant toxicity from FOLFIRINOX
-___ C1D1 FOLFOX
-___ C1D15 FOLFOX
-___: C2D1 FOLFOX
-___ admitted with febrile neutropenia (scheduled
Neulasta given on day of admission), altered mental status, 
found
to have cholangitis and enterococcal and citrobacter bacteremia.
Underwent ERCP on ___, which showed sludge but no puss in the
setting of neutropenia. LFTs normalized after removal of sludge.
She was discharged on daptomycin IV and cipro PO with the goal 
to
complete 14 days of antibiotics. Of note, CT showed 
subsegemental
PE and left subclavian DVT (was on Xarelto for PVT; however, it
was held for ___ days every week for paracentesis); so she was
continued on Xarelto with the plan to minimize interruptions of
anticoagulation"

 
Past Medical History:
Pancreatic CA, as above
PVT on rivaroxaban
HTN
 
Social History:
___
Family History:
FamHx:
- Father with colon cancer in his ___
- Sister with breast cancer in her ___

 
Physical Exam:
PHYSICAL EXAM:  
Vitals: ___ 0224 Temp: 98.1 PO BP: 132/85 R Sitting HR: 108
RR: 20 O2 sat: 93% O2 delivery: RA Dyspnea: 0 RASS: +1 Pain
Score: ___  
GENERAL: sitting in bed, appears in NAD, calm
EYES: PERRLA, anicteric
HEENT: Thrush, dry MM
NECK:  supple, normal ROM
LUNGS:  CTA b/l but decreased breath sounds globally on left,
speaks in full sentences but with mild labor
CV: RRR, no murmur, has 2+ peripheral edema
ABD: soft, distended, + ascites, dull to percussion, hypoactive
BS, no rebound/tenderness/guarding
GENITOURINARY: no foley
EXT:  warm, no deformity, decreased muscle bulk
SKIN:  warm, dry, no rash
NEURO:  AOx3, fluent speech
ACCESS:PORt dressing c/d/i
 
Pertinent Results:
ADMISSION LABS:  
___ 05:35PM BLOOD WBC: 73.3* RBC: 3.49* Hgb: 10.4* Hct:
33.0* MCV: 95 MCH: 29.8 MCHC: 31.5* RDW: 22.0* RDWSD: 74.4* Plt
Ct: 100* 
___ 05:35PM BLOOD Neuts: 98* Lymphs: 2* Monos: 0* Eos: 0*
Baso: 0 AbsNeut: 71.83* AbsLymp: 1.47 AbsMono: 0.00* AbsEos:
0.00* AbsBaso: 0.00* 
___ 05:35PM BLOOD Glucose: 230* UreaN: 12 Creat: 0.6 Na: 
137
K: 4.6 Cl: 99 HCO3: 24 AnGap: 14 
___ 05:35PM BLOOD ALT: 166* AST: 269* AlkPhos: 458* 
TotBili:
1.0 
___ 05:35PM BLOOD Lipase: 61* 
___ 05:35PM BLOOD proBNP: 521* 
___ 05:35PM BLOOD cTropnT: <0.01 
___ 05:35PM BLOOD Albumin: 3.0* Calcium: 8.4 Phos: 2.7 Mg:
2.0 

MICROBIOLOGY:  
___
18:50 BLOOD CULTURE
Blood Culture, Routine  (Pending) 
  
___
18:35 BLOOD CULTURE
Blood Culture, Routine  (Pending) 
  
___
17:47 PERITONEAL FLUID
 PERITONEAL FLUID
GRAM STAIN
1+ (<1 per 1000X FIELD): /POLYMORPHONUCLEAR LEUKOCYTES
NO MICROORGANISMS SEEN 
FLUID CULTURE 
ANAEROBIC CULTURE 

STUDIES:  
EKG: 
Sinus tachycardia, no STEMI, poor Rwave progression, stable
compared to prior

RUQUS:
1. Moderate to large volume ascites.
2. Main portal vein is patent with hepatopetal flow.
3. CBD stent in place without evidence of intrahepatic biliary
ductal dilation.

CXR:
Large partially layering left pleural effusion likely with
associated compressive lower lobe atelectasis, similar to
findings on recent CT of the chest. Port-A-Cath positioned
appropriately. 
 
Brief Hospital Course:
___ PMH metastatic pancreatic CA (c/b pleural effusions 
and ascites on FOLFOX s/p Cycle 2), biliary obstruction (s/p
metal stent),  DVT/PE/PVT (on rivaroxaban), who presented with
fatigue and dyspnea I/s/o abdominal distention. 

#Fatigue
#Malignant ascites
Likely related to recent chemotherapy and respiratory compromise 
caused by reaccumulation of malignant ascites. Pt gets 
outpatient paras approximately every 2 weeks. Number of 
neutrophils on peritoneal sample decreased compared to prior, 
and no abdominal pain/tenderness arguing against SBP. No fever 
to suggest infection. CXR negative for infiltrate. Patient felt 
breathing and energy was much improved after her paracentesis. 
___ was not consulted as the patient was ambulating 
independently. 

#Mild Lower extremity swelling
Patient presented with b/l leg swelling, has hx of PVT but RUQUS
showed no recurrence. Given new finding, and elevated BNP, TTE 
was ordered but EF was preserved at 67% with no evidence of 
major valvular/diastolic dysfunction. Cr was normal as well. 
Held diuresis on day of paracentesis, restarted on discharge.

#Leukocytosis
Likely related to neulasta onpro placed on ___. Less likely 
infection given lack of localizing symptoms

#Thrombocytopenia (nadir 50 on ___
HIT score calculates intermediate probability of HIT however 
after speaking with oncologist it was felt that plt drop is more 
likely related to chemotherapy. 

#Recent VRE/Citrobacter Bacteremia
On last admission had bacteremia as a result of cholangitis and
was s/p ERCP with sludge removal. PEr ID, to be treated with 2
week course of Abx ending ___.  We continue dapto/cipro for an 
addition 48 hrs until Cx clearly
demonstrate no recurrence

#Thrush
Continued nystatin 

#Metastatic Pancreatic Cancer
S/p C2 FOLFOX with neulasta support just days prior to 
admission. Dr ___.

#Transaminitis
ALT 166, AST191, LD 518, ALP 328 Tbili 1.0
Fluctuating since ___, with rising AP concerning for possible
disease progression as RUQUS showed CBD stent in place without 
evidence of intrahepatic biliary ductal  dilation. 

#PVT/DVT/PE Hx
Switched rivaroxaban to heparin gtt in preparation for ___
paracentesis. Switched back to rivaroxaban the next day as PLT 
count was low. No bleeding events.

OUTSTANDING ISSUES
[ ] recheck PLTs, WBC and LFTs, ensure stability

>30 min spent on discharge planning including face to face time

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
2. Pantoprazole 40 mg PO Q12H 
3. Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line 
4. Rivaroxaban 20 mg PO DAILY 
5. Ciprofloxacin HCl 500 mg PO BID 
6. Nystatin Oral Suspension 5 mL PO QID 
7. Pancrelipase 5000 1 CAP PO TID W/MEALS 
8. Senna 17.2 mg PO BID 
9. Daptomycin 450 mg IV Q24H 

 
Discharge Medications:
1.  Nystatin Oral Suspension 5 mL PO QID  
2.  Ondansetron ODT 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
 
3.  Pancrelipase 5000 1 CAP PO TID W/MEALS  
4.  Pantoprazole 40 mg PO Q12H  
5.  Prochlorperazine 10 mg PO Q6H:PRN Nausea/Vomiting - Second 
Line  
6.  Rivaroxaban 20 mg PO DAILY  
7.  Senna 17.2 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Large Volume Ascites

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with fatigue and shortness of 
breath. We performed a paracentesis and this relieved your 
shortness of breath. Please follow up at your regularly 
scheduled paracentesis appointments.
 
Followup Instructions:
___